US08981084B2
(4-(Benzo[d]oxazol-2-yl)piperazin-1-yl)(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)phenyl)methanone
This compound was synthesized from 2-(piperazin-1-yl)benzo[d]oxazole and 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid as described for example 37 step 3 (20 mg, yield 12%). 1H NMR (400 MHz, CDCl3) δ 8.26-8.22 (m, 2H), 7.69-7.63 (m, 2H), 7.40-7.39 (m, 1H), 7.31-7.29 (m, 1H), 7.23-7.19 (td, J=7.7 Hz, 1.1 Hz, 1H), 7.10-7.06 (m, 1H), 3.96-3.63 (m, 8H). MS (ESI) m/z: Calculated for C21H16F3N5O3: 443.12. found: 444.2 (M+H)+

reactant | 2-(piperazin-1-yl)benzo[d]oxazole | N1(CCNCC1)C=1OC2=C(N1)C=CC=C2 | C11H13N3O
reactant | 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid | FC(C1=NC(=NO1)C=1C=C(C(=O)O)C=CC1)(F)F | C10H5F3N2O3
product | (4-(Benzo[d]oxazol-2-yl)piperazin-1-yl)(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)phenyl)methanone | yield 12% | O1C(=NC2=C1C=CC=C2)N2CCN(CC2)C(=O)C2=CC(=CC=C2)C2=NOC(=N2)C(F)(F)F | C21H16F3N5O3
